US08466289B2
Synthesis of Intermediate 7-(2-Fluoro-4-trimethylsilanyl-phenylamino)-6-methyl-8-nitro-2,3-dihydro-thiazolo[3,2-a]pyridin-5-one (I-19d)
Trifluoro-methanesulfonic acid 6-methyl-8-nitro-5-oxo-2,3-dihydro-5H-thiazolo[3,2-a]pyridin-7-yl ester (0.9 g, 2.5 mmol) was reacted with 2-fluoro-4-trimethylsilanyl-phenylamine (0.5 g, 2.75 mmol), Pd(dba)3 (138 mg, 0.15 mmol), potassium phosphate (0.7 g, 3.75 mmol) and xantphos (87 mg, 0.15 mmol) in toluene (30 mL) at 110° C. for 3 hours to afford the crude product. Purification by column chromatography on silica gel (30% ethylacetate in hexane) afforded 0.75 g of the product (76% yield).

reactant | Trifluoro-methanesulfonic acid 6-methyl-8-nitro-5-oxo-2,3-dihydro-5H-thiazolo[3,2-a]pyridin-7-yl ester | 2.5 mmol, 0.9 g | CC1=C(C(=C2N(C1=O)CCS2)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C9H7F3N2O6S2
reactant | 2-fluoro-4-trimethylsilanyl-phenylamine | 2.75 mmol, 0.5 g | FC1=C(C=CC(=C1)[Si](C)(C)C)N | C9H14FNSi
reactant | potassium phosphate | 3.75 mmol, 0.7 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | xantphos | 0.15 mmol, 87 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 7-(2-Fluoro-4-trimethylsilanyl-phenylamino)-6-methyl-8-nitro-2,3-dihydro-thiazolo[3,2-a]pyridin-5-one | 0.75 g, 76% yield | FC1=C(C=CC(=C1)[Si](C)(C)C)NC=1C(=C2N(C(C1C)=O)CCS2)[N+](=O)[O-] | C17H20FN3O3SSi
